US06716861B2
(3R)-6-cyclohexyl-N-hydroxy-3-{4-[(isopropylamino)methyl]-1,3-oxazol-2-yl}hexanamide
A solution of (3R)-N-(benzyloxy)-6-cyclohexyl-3-{4-[(isopropylamino)methyl]-1,3-oxazol-2-yl}hexanamide (preparation 157) (85 mg, 0.20 mmol) in EtOH (5 ml) was treated with HCO2NH4 (63 mg, 1.00 mmol) and Pd(OH)2 (20 mg) and the reaction mixture heated at 43° C. for 18 hours. 2 further portions of HCO2NH4 (30 mg+30 mg) and Pd(OH)2 (10 mg+30 mg) were added over a period of 4 hours. The catalyst was filtered off and washed with EtOH. The solvent was removed under reduced pressure. The crude material was purified on a silica column eluting with DCM:MeOH:NH3 (90:10:1) to afford the title compound.

reactant | (3R)-N-(benzyloxy)-6-cyclohexyl-3-{4-[(isopropylamino)methyl]-1,3-oxazol-2-yl}hexanamide | 0.20 mmol, 85 mg | C(C1=CC=CC=C1)ONC(C[C@@H](CCCC1CCCCC1)C=1OC=C(N1)CNC(C)C)=O | C26H39N3O3
solvent | EtOH | 5 ml | CCO | C2H6O
catalyst | Pd(OH)2 | 20 mg | [OH-].[OH-].[Pd+2]
catalyst | Pd(OH)2 | 10 mg | [OH-].[OH-].[Pd+2]
product | (3R)-6-cyclohexyl-N-hydroxy-3-{4-[(isopropylamino)methyl]-1,3-oxazol-2-yl}hexanamide | C1(CCCCC1)CCC[C@H](CC(=O)NO)C=1OC=C(N1)CNC(C)C | C19H33N3O3
